US05284847
7-Cyclohexylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione
A mixture of di-t-butyl 4-cyclohexylthiophene-2,3-dicarbamate (400 mg, 1mmol), diethyl oxalate (5 ml, 37 mmol) and glacial acetic acid (5 ml) was refluxed for 16 h. The precipitate was filtered off and washed with glacial acetic acid to give 60 mg (24%) of the title compound. M.p.>270° C. 1H-NMR (DMSO-d6, δ): 1.1-1.9 (m, 10H), 2.75 (m, 1H), 6.7 (s, 1H), 11.9 (s, 1H), 12.25 (s, 1H).

reactant | di-t-butyl 4-cyclohexylthiophene-2,3-dicarbamate | 1mmol, 400 mg | C1(CCCCC1)C=1C(=C(SC1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C20H32N2O4S
reactant | diethyl oxalate | 37 mmol, 5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-Cyclohexylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione | 60 mg, 24% | C1(CCCCC1)C1=CSC=2NC(C(NC21)=O)=O | C12H14N2O2S
